US07662849B2
2-Benzyloxycarbonylamino-2-(2-ethylbutyl)malonic acid monoethyl ester was heated at 75° C. in ethanol (5 mL) with sodium hydroxide (5 mL, 1 N) for 3 h and 2-benzyloxycarbonylamino-2-(2-ethylbutyl)malonic acid was isolated by extraction of the acidified reaction mixture. 2-Benzyloxycarbonylamino-2-(2-ethylbutyl)malonic acid was heated at 103° C. for 1 h and the resulting residue was purified by column chromatography on silica gel to give 2(RS)-benzyloxycarbonylamino-4-ethylhexanoic acid (0.220 g).

reactant | 2-Benzyloxycarbonylamino-2-(2-ethylbutyl)malonic acid monoethyl ester | C(C)OC(C(C(=O)O)(CC(CC)CC)NC(=O)OCC1=CC=CC=C1)=O | C19H27NO6
reactant | sodium hydroxide | 1 N, 5 mL | [OH-].[Na+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 2-benzyloxycarbonylamino-2-(2-ethylbutyl)malonic acid | C(C1=CC=CC=C1)OC(=O)NC(C(=O)O)(C(=O)O)CC(CC)CC | C17H23NO6
